US08232399B2
1-Phenylpropan-1-ol.
General procedure for the asymmetric Pd(0)-catalyzed allylic substitution reaction: To a Schlenk tube comprising (±) 1,3-dipheylprop-2-en-1-yl acetate (252 mg, 1.0 mmol), [Pd(allyl)Cl]2 (3.7 mg, 0.01 mmol, 1 mol %), was added (S, aR)-1,2,3,4-tetrahydro-2-methyl-1-(2-(diphenylphosphino)naphthalen-1-yl)isoquinoline (9.0 mg, 0.02 mmol, 2 mol %) in CH2Cl2 (2 mL). The reaction mixture was stirred at room temperature over a period of 30 minutes. Dimethyl malonate (396 mg, 3.0 mmol), KOAc (2.8 mg, 0.02 mmol) and BSA (613 mg, 3.0 mmol) were subsequently added at −78° C. The reaction mixture was stirred at −25° C. over a period of 48 hours, quenched using a saturated aqueous NH4Cl, solution and extracted with EtOAc (3×5 mL). The organic phase was washed with a saturated aqueous NaHCO3 solution, brine, dried using Na2SO4, and concentrated under reduced pressure. The residue was purified by means of flash chromatography on silica gel using hexane/EtOAc (6:1) as the eluent system to yield the desired product as a colorless oil (78% ee). 1H NMR (300 MHz, CDCl3): δ 3.54 (s, 3H), 3.70 (s, 3H), 3.96 (d, J=10.8 Hz, 1H), 4.25 (dd, J=10.8, 8.7 Hz, 1H), 6.33 (dd, J=15.4, 8.6 Hz, 1H), 6.46 (d, J=15.8 Hz, 1H), 7.17-7.24 (m, 10H). The enantiomeric purity (ee), as determined by means of chiral HPLC (Chiralpak AD, hexane/isopropanol=90:10, flow rate 1.0 mL/min); (tR=9.4 min., tS=12.7 min).

reactant | (±) 1,3-dipheylprop-2-en-1-yl acetate | 1.0 mmol, 252 mg | C(C)(=O)OC(C=CC1=CC=CC=C1)C1=CC=CC=C1 | C17H16O2
reactant | Dimethyl malonate | 3.0 mmol, 396 mg | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | KOAc | 0.02 mmol, 2.8 mg | CC(=O)[O-].[K+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-Phenylpropan-1-ol | C1(=CC=CC=C1)C(CC)O | C9H12O
